US07579359B2
A mixture of 3-amino-4-chloroquinoline (8.00 g, 1 eq), trimethylacetyl chloride (11 mL g, 2 eq), and anhydrous dichloroethane (150 mL) was heated at 70° C. After 6 hours more trimethylacetyl chloride (2 eq) was added and heating was continued for a total of 23 hours. The reaction mixture was diluted with dichloromethane, washed sequentially with saturated aqueous potassium carbonate, water, and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was triturated with hexanes and then filtered to provide 7.16 g of N-(4-chloroquinolin-3-yl)trimethylacetamide as a solid. The filtrate was concentrated under reduced pressure to provide 5 g of crude N-(4-chloroquinolin-3-yl)trimethylacetamide.

reactant | 3-amino-4-chloroquinoline | 8.00 g, 1 eq | NC=1C=NC2=CC=CC=C2C1Cl | C9H7ClN2
reactant | trimethylacetyl chloride | 11 mL, 2 eq | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
reactant | trimethylacetyl chloride | 2 eq | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chloroquinolin-3-yl)trimethylacetamide | 7.16 g | ClC1=C(C=NC2=CC=CC=C12)NC(C(C)(C)C)=O | C14H15ClN2O
